US08735402B2
(e) Benzyl 3-[4-(5-methanesulfonyloxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenoxy]cyclobutanecarboxylate
A solution of 200 mg of benzyl 3-[4-(5-chlorooxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenoxy]cyclobutanecarboxylate and 48 mg of sodium methylsulfinate in 4 ml of N,N-dimethylformamide was heated in a microwave reactor at 100° C. for 60 min. At room temperature, the mixture was filtered and then washed with DMF. The filtrate was concentrated and the resulting residue was purified by preparative HPLC. This gave 71 mg (32%) of the title compound.

reactant | benzyl 3-[4-(5-chlorooxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenoxy]cyclobutanecarboxylate | 200 mg | ClC=1N=CC2=C(N1)OC(=N2)C2=CC(=C(OC1CC(C1)C(=O)OCC1=CC=CC=C1)C(=C2)C)C | C25H22ClN3O4
reactant | sodium methylsulfinate | 48 mg | CS(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | Benzyl 3-[4-(5-methanesulfonyloxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethylphenoxy]cyclobutanecarboxylate | CS(=O)(=O)C=1N=CC2=C(N1)OC(=N2)C2=CC(=C(OC1CC(C1)C(=O)OCC1=CC=CC=C1)C(=C2)C)C | C26H25N3O6S
